US06268387B1
4-Methoxy-3-phenylamino-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.5 g, 6.2 mmol), triphenylbismuth (2.9 g, 6.6 mmol), copper(II) acetate (1.13 g, 6.2 mmol), and triethylamine (0.62 g, 6.2 mmol) to give a solid which was recrystallized from ethanol then subjected to chromatography on a column of silica gel in dichloromethane to afford the product (0.8 g); m.p. 194-195° C. after an additional recrystallization from ethyl alcohol.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 6.2 mmol, 1.5 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | triphenylbismuth | 6.6 mmol, 2.9 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 6.2 mmol, 0.62 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 6.2 mmol, 1.13 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Methoxy-3-phenylamino-N-phenyl-benzamide | 0.8 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC1=CC=CC=C1 | C20H18N2O2
